US04267175
A suspension of 3-thenoic acid (prepared as described by S. Gronowitz in Arkiv. Kemi., 7, 361-369, 1954) (4.7 g, 0.037 mole) in anhydrous ether was treated with an ethereal solution of diazomethane (from 7-8 g N-nitroso-methylurea and 40% aqueous potassium hydroxide (30 ml) and ether (100 ml)). Evaporation in vacuo gave methyl-3-thenoate (4.9 g). Lithium aluminium hydride (1.3 g) reduction in ether gave 3-hydroxymethylthiophene (3.4 g, 93%) as a colourless oil.

reactant | 3-thenoic acid | 0.037 mole, 4.7 g | C1=C(C=CS1)C(=O)O | C5H4O2S
reactant | diazomethane | 30 ml, 7-8 g | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | methyl-3-thenoate | 4.9 g | COC(C1=CSC=C1)=O | C6H6O2S
